US06207686B1
To a solution of Nα-[(2R,3R)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan (300 mg) in N,N-dimethylformamide (10 ml) were added potassium carbonate (69 mg) and ethyl iodide (155 mg) and the mixture was stirred at ambient temperature for 3 hours. The mixture was diluted with ethyl acetate (20 ml) and the solution was washed with 0.5N hydrochloric acid (20 ml×2), saturated sodium bicarbonate aqueous solution (20 ml×2) and brine (20 ml) successively and the organic layer was dried over magnesium sulfate. The solution was concentrated in vacuo and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give N [(2R,3R)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan ethyl ester as an amorphous powder (260 mg).

reactant | Nα-[(2R,3R)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan | 300 mg | C1OC=2C=C(C=CC2O1)[C@@H](C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)[C@@H](CCCC)O | C25H28N2O6
reactant | potassium carbonate | 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 155 mg | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | [(2R,3R)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan ethyl ester | 260 mg | C(C)OC([C@@H](NC([C@@H]([C@@H](CCCC)O)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C27H32N2O6
